US06150373
A mixture of 500 mg (0.7 mmol) of 1-[3-(tert-butyldiphenylsilyloxyethyl)phenyl]-3-(2,4-dichlorophenyl)-3,4-dihydro-7-methanesulfonyl-pyrimido[4,5-d]pyrimidin-2(1H)-one and 1 g (4.8 mmol) of 4-[2-(diethylamino)ethoxy]aniline was heated at 180° C. for 30 minutes. The mixture was cooled and the product purified by column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined, evaporated and the residue evaporated with toluene. The residue was then dissolved in 40 ml of dichloromethane, washed with 40 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated to afford 200 mg (33%) of 1-[3-(tert-butyldiphenylsilyloxyethyl)phenyl]-3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a yellow gum. [Mass spectrum (ESI) MH+ =859].

reactant | 1-[3-(tert-butyldiphenylsilyloxyethyl)phenyl]-3-(2,4-dichlorophenyl)-3,4-dihydro-7-methanesulfonyl-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.7 mmol, 500 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)S(=O)(=O)C)C2=C(C=C(C=C2)Cl)Cl)=O | C37H36Cl2N4O4SSi
reactant | 4-[2-(diethylamino)ethoxy]aniline | 4.8 mmol, 1 g | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
product | 1-[3-(tert-butyldiphenylsilyloxyethyl)phenyl]-3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 200 mg, 33% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)NC2=CC=C(C=C2)OCCN(CC)CC)C2=C(C=C(C=C2)Cl)Cl)=O | C48H52Cl2N6O3Si
